US07547702B2
A solution of 2-(4-bromo-phenyl)-4,7-dichloro-quinazoline (0.085 mmol, 30 mg) in 2 ml THF is treated with aniline (0.01 ml, 0.11 mmol). The suspension is heated to 60° and stirred for 18 hrs. The reaction mixture is filtered and the crystals are washed with THF and dried. [2-(4-Bromo-phenyl)-7-chloro-quinazolin-4-yl]-phenyl-amine is obtained.

reactant | 2-(4-bromo-phenyl)-4,7-dichloro-quinazoline | 0.085 mmol, 30 mg | BrC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)Cl)Cl | C14H7BrCl2N2
reactant | aniline | 0.11 mmol, 0.01 ml | NC1=CC=CC=C1 | C6H7N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | [2-(4-Bromo-phenyl)-7-chloro-quinazolin-4-yl]-phenyl-amine | BrC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)NC1=CC=CC=C1)Cl | C20H13BrClN3
